* C:\Users\Pc\OneDrive\Documents\LTspice\Pass_Transistor.asc
* Generated by LTspice 24.1.7 for Windows.
M19 N013 A B 0 NMOS l=100 w=10
M20 N013 A- B- 0 NMOS l=100 w=10
M21 N006 A B- 0 NMOS l=100 w=10
M22 N006 A- B 0 NMOS l=100 w=10
M1 N007 C- N006 0 NMOS l=100 w=10
M2 N007 C N013 0 NMOS l=100 w=10
M3 N011 C N006 0 NMOS l=100 w=10
M4 N011 C- N013 0 NMOS l=100 w=10
M6 Sum_bar N007 0 N014 NMOS l=100 w=10
M7 N007 N011 N008 N008 PMOS l=100 w=10
M8 N011 N007 N016 N016 PMOS l=100 w=10
M5 Sum N011 0 N022 NMOS l=100 w=10
M9 VDD N007 Sum_bar NC_01 PMOS l=100 w=10
M10 VDD N011 Sum NC_02 PMOS l=100 w=10
M11 N001 A B- 0 NMOS l=100 w=10
M12 N001 A- 0 0 NMOS l=100 w=10
M13 N017 A 0 0 NMOS l=100 w=10
M14 N017 A- B- 0 NMOS l=100 w=10
M15 N010 A N009 0 NMOS l=100 w=10
M16 N010 A- B 0 NMOS l=100 w=10
M17 N018 A B- 0 NMOS l=100 w=10
M18 N018 A- N021 0 NMOS l=100 w=10
M23 N005 C- N001 0 NMOS l=100 w=10
M24 N005 C N010 0 NMOS l=100 w=10
M25 N004 C- N018 0 NMOS l=100 w=10
M26 N004 C N017 0 NMOS l=100 w=10
M27 Carry N004 0 N023 NMOS l=100 w=10
M28 Carry_bar N005 0 N012 NMOS l=100 w=10
M29 VDD N005 Carry_bar N003 PMOS l=100 w=10
M30 VDD N004 Carry N019 PMOS l=100 w=10
M31 N005 N004 N002 N002 PMOS l=100 w=10
M32 N004 N005 N015 N015 PMOS
V§A A 0 PULSE(1.8 0 0 2p 2p 50n 100n)
V§A1 A- 0 PULSE(0 1.8 0 2p 2p 50n 100n)
V§B1 B- 0 PULSE(0 1.8 0 2p 2p 100n 200n)
V§C C 0 PULSE(1.8 0 0 2p 2p 200n 400n)
V§C1 C- 0 PULSE(0 1.8 0 2p 2p 200n 400n)
V VDD 0 1.8
V§B B 0 PULSE(1.8 0 0 2p 2p 100n 200n)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Pc\AppData\Local\LTspice\lib\cmp\standard.mos
.INCLUDE tsmc018.lib
.tran 400n
.backanno
.end
